US08877683B2
Preparation of 2,2-Dimethyl-propionic acid 6,6-dioxo-7-(2-trifluoromethyl-phenyl)-5,6-dihydro-thiopyrano[4,3-b]pyridin-8-yl ester (compound I-8 in Table I below)
To a solution of 6,6-Dioxo-7-(2-trifluoromethyl-phenyl)-5,6-dihydro-thiopyrano[4,3-b]pyridin-8-ol (1.92 g, 5.61 mmol) prepared according to the above Example 1 in methylenehloride (70 ml) was added at 0° C. pyridine (1.77 g, 22.4 mmol), followed by pivaloylchloride (0.744 g, 6.17 mmol). After stirring at room temperature for 16 h methylenehloride and water was added, the organic phase separated and concentrated. Chromatography over silica with ethylacetate/cyclohexane gave 380 mg colourless crystals (0.88 mmol).

reactant | 6,6-Dioxo-7-(2-trifluoromethyl-phenyl)-5,6-dihydro-thiopyrano[4,3-b]pyridin-8-ol | 5.61 mmol, 1.92 g | O=S1(CC=2C(=NC=CC2)C(=C1C1=C(C=CC=C1)C(F)(F)F)O)=O | C15H10F3NO3S
reactant | pyridine | 22.4 mmol, 1.77 g | N1=CC=CC=C1 | C5H5N
reactant | pivaloylchloride | 6.17 mmol, 0.744 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | O | H2O
solvent | ethylacetate cyclohexane | C(C)OC(C)=O.C1CCCCC1
product | 2,2-Dimethyl-propionic acid 6,6-dioxo-7-(2-trifluoromethyl-phenyl)-5,6-dihydro-thiopyrano[4,3-b]pyridin-8-yl ester | 0.88 mmol, 380 mg | O=S1(CC=2C(=NC=CC2)C(=C1C1=C(C=CC=C1)C(F)(F)F)OC(C(C)(C)C)=O)=O | C20H18F3NO4S
